US04443447
To a stirred, cold (5° C.) 400 ml portion of 90% nitric acid was added 2.3 g of 6,7-dihydro-5-methyl-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. The solution was stirred at 5°-10° C. for one hour, then diluted with 1.5 liters of ice-water. The solid was separated by filtration and dried to provide 6,7-dihydro-5-methyl-8-(4-nitrophenyl)-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. >300° C. Analysis: Calculated for C20H16N2O5 : %C, 65.9; %H, 4.4; %N, 7.7; Found: %C, 65.3; %H, 4.6; %N, 7.4. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 6,7-dihydro-5-methyl-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.3 g | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2C2=CC=CC=C2 | C20H17NO3
product | 6,7-dihydro-5-methyl-8-(4-nitrophenyl)-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2C2=CC=C(C=C2)[N+](=O)[O-] | C20H16N2O5
